* Sample and Hold
.subckt sample 1 0 in clk1 out
M1 in cbar out 1 pfet l=0.2u w=2u
M2 in clk1 out 0 nfet l=0.2u w=1u
M3 cbar clk1 1 1 pfet l=0.2u w=2u
M4 cbar clk1 0 0 nfet l=0.2u w=1u
C1 out 0 1p
.ends sample
